US04977179
Preparation of N-[(R)-1-ethoxycarbonyl-2-[(S)-2-benzyloxycarbonylamino-3-phenylpropylthio]ethyl]-alanine (β-isomer)
In a mixture of 50 ml of TFA and 10 ml of anisole was dissolved 20.1 g of β-isomer of N-[(R)-1-ethoxycarbonyl-2-[(S)-2-benzyloxycarbonylamino-3-phenylpropylthio]ethyl]-alanine t-butyl ester prepared in Reference Example 53. The solution was stirred at room temperature for 5 hours. The excess of the solvent was evaporated off. The residue was poured into ice water and the mixture was adjusted to a pH of 4 with a saturated aqueous solution of sodium hydrogencarbonate. Then the mixture was extracted with dichloromethane. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure. To the crystalline residue was added ether to precipitate crystals which were collected by filtration and recrystallized from dichloromethane-ether. Thus the β-isomer of the title compound was obtained. Yield 8.63 g. M.p. 124°-127° C.

reactant | N-[(R)-1-ethoxycarbonyl-2-[(S)-2-benzyloxycarbonylamino-3-phenylpropylthio]ethyl]-alanine t-butyl ester | C(C)(C)(C)OC([C@@H](N[C@@H](CSC[C@H](CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)C(=O)OCC)C)=O | C29H40N2O6S
solvent | TFA | 50 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | anisole | 10 ml | C1(=CC=CC=C1)OC | C7H8O
product | N-[(R)-1-ethoxycarbonyl-2-[(S)-2-benzyloxycarbonylamino-3-phenylpropylthio]ethyl]-alanine | C(C)OC(=O)[C@H](CSC[C@H](CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C25H32N2O6S
